US04514392
A mixture of 1.0 g (0.006 m) of N-chloroacetyl-N-methylcarbamoyl chloride and 1.0 g (0.006 m) of 2,3-dihydro-2,2-dimethyl-7-benzofuranol in 15 cc dry toluene was stirred under nitrogen and 0.61 g (0.006 m) of triethylamine was added dropwise over a period of 10 mts. The mixture was stirred for an additional period of 2 hrs., filtered through a bed of celite and then the solvent was stripped off under reduced pressure to yield 1.39 g (yield 77%) of 2,3-dihydro-2,2-dimethyl-7-benzofuranyl N-chloroacetyl-N-methylcarbamate, a light yellow oil. NMR (CDCl3): δ 7.3-6.6 (mn,3H); 4.75(s,2H); 3.40 (s,3H); 3.05 (s,2H) and 1.45 (s,6H). IR (CHCl3): ν1760 and 1725 cm-1

reactant | N-chloroacetyl-N-methylcarbamoyl chloride | 1.0 g | ClCC(=O)N(C(=O)Cl)C | C4H5Cl2NO2
reactant | 2,3-dihydro-2,2-dimethyl-7-benzofuranol | 1.0 g | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | triethylamine | 0.61 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 15 cc | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-2,2-dimethyl-7-benzofuranyl N-chloroacetyl-N-methylcarbamate | 1.39 g, yield 77% | ClCC(=O)N(C(OC1=CC=CC=2CC(OC21)(C)C)=O)C | C14H16ClNO4
